US07074819B2
Step 1) Synthesis of (4-bromo-benzyloxy)-tert-butyl-dimethyl-silane
To a solution of p-bromobenzyl alcohol (5.0 g, 26.7 mmol) in DMF (10 mL) was added imidazole (4.54 g, 66.7 mmol) followed by addition of tert-butyldimethylsilyl chloride (6.01 g, 40 mmol). The progress of the reaction was monitored by TLC. When the reaction was complete (about 2 h), methanol was added and diluted by 20% ethyl acetate in hexane. The organic layer was washed several times with water and then with brine, dried, concentrated under reduced pressure to give 7.5 g of the crude product which was passed through a short column chromatography to give 7.3 g (91%) of the desired compound.

reactant | p-bromobenzyl alcohol | 26.7 mmol, 5.0 g | BrC1=CC=C(CO)C=C1 | C7H7BrO
reactant | imidazole | 66.7 mmol, 4.54 g | N1C=NC=C1 | C3H4N2
reactant | tert-butyldimethylsilyl chloride | 40 mmol, 6.01 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | methanol | CO | CH4O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | hexane | CCCCCC | C6H14
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (4-bromo-benzyloxy)-tert-butyl-dimethyl-silane | 7.3 g, 91% | BrC1=CC=C(CO[Si](C)(C)C(C)(C)C)C=C1 | C13H21BrOSi
